US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-isobutyl-5-phenylisoxazole
3-Hydroxy-4-isobutyl-5-phenylisoxazole (217 mg) and 2-(N-tert-butoxycarbonylamino)ethanol (193 mg) were subjected to reaction and post-treatment in a similar manner to that described in Example l(a) to obtain the title compound (303 mg, 84%) as colorless crystals.

reactant | 3-Hydroxy-4-isobutyl-5-phenylisoxazole | 217 mg | OC1=NOC(=C1CC(C)C)C1=CC=CC=C1 | C13H15NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 193 mg | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-isobutyl-5-phenylisoxazole | 303 mg, 84% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CC(C)C)C1=CC=CC=C1 | C20H28N2O4
